US07867629B2
Dissolving 4.3 g (16 mmol) of 2,4′-dibromopropiophenon obtained and 1.4 g (15 mmol) of 2-aminopyridine into 50 milliliter of ethanol, adding 1.9 g of sodium hydrogen carbonate, the resultant suspension was refluxed under heating for 6 hours. After completion of the reaction, adding water and an extraction was carried out using dichloro-methane. Washing the organic layer with water, it was dried with the use of sodium sulfate. The solvent was removed by distillation and the resultant syrup was refined by silica gel column chromatography thereby obtaining 1.6 g of 2-(4-bromo-phenyl)-3-methyl-imidazo [1,2-a] pyridine (yield: 37%).

reactant | 2,4′-dibromopropiophenon | 16 mmol, 4.3 g | BrC(C(=O)C1=CC=C(C=C1)Br)C | C9H8Br2O
reactant | 2-aminopyridine | 15 mmol, 1.4 g | NC1=NC=CC=C1 | C5H6N2
reactant | ethanol | 50 milliliter | C(C)O | C2H6O
reactant | sodium hydrogen carbonate | 1.9 g | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
product | 2-(4-bromo-phenyl)-3-methyl-imidazo [1,2-a] pyridine | 1.6 g, yield: 37% | BrC1=CC=C(C=C1)C=1N=C2N(C=CC=C2)C1C | C14H11BrN2
